US04596819
A solution of chloroacetyl chloride, 27.7 g (0.247 mol), in 66.5 ml of acetone is added dropwise with stirring to a solution of 25 g (0.247 mol) of L-prolinol and 40.4 g (0.493 mol) of sodium acetate in a mixture of 400 ml of acetone and 200 ml of water at 0°-5° C. The mixture is stirred and allowed to reach room temperature over two hours, the solvent is evaporated in vacuo and the residue is suspended in 300 ml chloroform and washed with water, 2×300 ml. The chloroform layer is separated, dried over sodium sulfate, evaporated in vacuo and the residue is purified by chromatography using silica gel and eluting with dichloromethane-methanol (98:2) to give (S)-1-(chloroacetyl)-2-pyrrolidinemethanol, 34.1 g; [α]D25 -62.2° (c 1.00, methanol).

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | L-prolinol | 0.247 mol, 25 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | sodium acetate | 0.493 mol, 40.4 g | C(C)(=O)[O-].[Na+]
solvent | acetone | 66.5 ml | CC(=O)C | C3H6O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | (S)-1-(chloroacetyl)-2-pyrrolidinemethanol | ClCC(=O)N1[C@@H](CCC1)CO | C7H12ClNO2
